US07666878B2
101a) 5-Bromomethyl-1-methyl-1H-benzotriazole
Phosphorus tribromide (0.230 ml, 2.45 mmol) is added to a stirred solution of (1-methyl-1H-1,2,3-benzotriazole-5-yl)methanol (0.4 g, 2.45 mmol) in diethyl ether (25 ml) under an inert atmosphere of Argon. After stirring overnight at room temperature, the reaction mixture is diluted with water (5 ml) and stirred vigorously for 10 minutes. The organic portion is separated, washed with water (2×5 ml), brine (2×5 ml) and concentrated in vacuo to yield the titled product which is used crude in the next step. (MH+ 226).

reactant | Phosphorus tribromide | 2.45 mmol, 0.230 ml | P(Br)(Br)Br | Br3P
reactant | (1-methyl-1H-1,2,3-benzotriazole-5-yl)methanol | 2.45 mmol, 0.4 g | CN1N=NC2=C1C=CC(=C2)CO | C8H9N3O
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
solvent | water | 5 ml | O | H2O
product | 5-Bromomethyl-1-methyl-1H-benzotriazole | BrCC1=CC2=C(N(N=N2)C)C=C1 | C8H8BrN3
